US06136978
To a flame dried flask was added PPh3 (1.76 g, 6.73 mmol) followed by dry CH2Cl2 (60 mL). The mixture was placed in an ice bath and bromine (0.34 mL, 6.41 mmol) was added dropwise. A small amount of PPh3 was added until the reaction went from yellow to clear in color. After 0.5 h at 0° C., 5-trimethylsilanylpent-2-yn-1-ol (1.0 g, 6.41 mmol) was dissolved in CH2Cl2 (5 mL) and added dropwise. After 4 h at 0° C., the reaction mixture was poured into a separatory funnel, diluted with pentane (250 mL) and extracted with H2O (100 mL) and sat. NaHCO3 (100 mL). The organic layer was dried (MgSO4), filtered and reduced in volume to 50 mL. The crude solution was chromatographed on a pad of silica gel with pentane (500 mL). After evaporation of the pentane, (5-bromopent-3-ynyl)trimethylsilane (1.2 g 87%) was obtained as a clear oil: IR (neat, cm-1) 2953, 2922, 2899, 2230, 1431, 1317, 1248, 1208, 852; 1H NMR (300 MHz, CDCl3) δ0.03 (s, 9H), 0.79 (t, J=8 Hz, 2H), 2.28 (tt, J1 =8 Hz, J2 =2 Hz, 2H), 3.92 (t, J=2 Hz, 2H); 13C NMR (75 MHz, CDCl3) δ1.7, 13.6, 15.7, 15.8, 74.6, 90.2; HRMS (EI) m/z calcd for C7H12BrSi (M-CH3) 202.9892, found 202.9889 LRMS (EI) m/z 203 (M-CH3), 137, 73, 66.

reactant | PPh3 | 6.73 mmol, 1.76 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | bromine | 6.41 mmol, 0.34 mL | BrBr | Br2
reactant | 5-trimethylsilanylpent-2-yn-1-ol | 6.41 mmol, 1.0 g | C[Si](CCC#CCO)(C)C | C8H16OSi
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | pentane | 250 mL | CCCCC | C5H12
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | (5-bromopent-3-ynyl)trimethylsilane | 1.2 g, 87% | BrCC#CCC[Si](C)(C)C | C8H15BrSi
